US05639748
Using the general procedure of Example 11, replacing [(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)oxy]ethanol 4-methylbenzenesulfonate with 6-chloro-9-(3-chloropropyl)-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine and 1H-1,2,4-triazole sodium salt with 4-chloro-1H-pyrazole gave 0.33 g (60%) of 6-chloro-9-[3-(4-chloro-1H-pyrazol-1-yl)propyl]-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine hydrochloride; mp 142.5°-145° C.

reactant | 6-chloro-9-(3-chloropropyl)-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine | ClC1=CC=C(C=2CCN(CCC21)C)CCCCl | C14H19Cl2N
reactant | 1H-1,2,4-triazole sodium salt | [Na].N1N=CN=C1
reactant | 4-chloro-1H-pyrazole | ClC=1C=NNC1 | C3H3ClN2
product | 6-chloro-9-[3-(4-chloro-1H-pyrazol-1-yl)propyl]-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepine hydrochloride | 0.33 g, 60% | Cl.ClC1=CC=C(C=2CCN(CCC21)C)CCCN2N=CC(=C2)Cl | InChI=1S/C17H21Cl2N3.ClH/c1-21-9-6-15-13(4-5-17(19)16(15)7-10-21)3-2-8-22-12-14(18)11-20-22;/h4-5,11-12H,2-3,6-10H2,1H3;1H
